US03953402
3,5-di tert.butyl-4-hydroxyphenyl crotonate was prepared by dissolving 22.2 grams of 2,6-di tert.butyl hydroquinone in a solution of 4 grams of sodium hydroxide in 100 milliliters of ethanol and adding drop wise to this solution a solution of 11.5 grams of crotonyl chloride in 50 milliliters of benzene. The addition was completed in 45 minutes. The reaction mixture was stirred for 4 hours at room temperature and then at 50° C. for 1 hour. After adding 100 milliliters of water to the reaction mixture, the layers were separated. The organic layer was evaporated to dryness and the residue dissolved in hexane. The hexane solution was washed three times with 10 percent sodium hydroxide solution, once with water, dried over sodium sulfate, and cooled to yield 10.5 grams of product which after recrystallization from hexane melted at 80° C. to 81.5° C.

reactant | 2,6-di tert.butyl hydroquinone | 22.2 grams | C(C)(C)(C)C1=C(O)C(=CC(=C1)O)C(C)(C)C | C14H22O2
reactant | crotonyl chloride | 11.5 grams | C(\C=C\C)(=O)Cl | C4H5ClO
reactant | water | 100 milliliters | O | H2O
solvent | sodium hydroxide | 4 grams | [OH-].[Na+]
solvent | ethanol | 100 milliliters | C(C)O | C2H6O
solvent | benzene | 50 milliliters | C1=CC=CC=C1 | C6H6
product | 3,5-di tert.butyl-4-hydroxyphenyl crotonate | C(\C=C\C)(=O)OC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C18H26O3
